US08530470B2
DIPEA (51.7 mL, 296.91 mmol) was added dropwise to a stirred solution of methyl 8-bromo-2-(ethylsulfonyl)-4-oxo-4H-chromene-6-carboxylate (44.56 g, 118.77 mmol) and (R)-2-methylmorpholine hydrochloride (22.88 g, 166.27 mmol) in DCM (430 mL) at 5° C. under nitrogen. The resulting suspension was stirred at room temperature for 1 h. The reaction mixture was diluted with water and quenched slowly with HCl 1M (119 mL, 118.77 mmol) (pH 7). The phases were separated and the organic phase was washed with water, brine, dried over MgSO4 and concentrated. The crude product was triturated in EtAc for 1 h, the solid was collected by filtration and dried to afford methyl 8-bromo-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylate (32.6 g, 67%) as a white solid. Mass Spectrum: m/z [M+H]+=384.

reactant | DIPEA | 296.91 mmol, 51.7 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl 8-bromo-2-(ethylsulfonyl)-4-oxo-4H-chromene-6-carboxylate | 118.77 mmol, 44.56 g | BrC=1C=C(C=C2C(C=C(OC12)S(=O)(=O)CC)=O)C(=O)OC | C13H11BrO6S
reactant | (R)-2-methylmorpholine hydrochloride | 166.27 mmol, 22.88 g | Cl.C[C@@H]1CNCCO1
reactant | HCl | 118.77 mmol, 1M, 119 mL, pH 7 | Cl | ClH
solvent | DCM | 430 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | methyl 8-bromo-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylate | 32.6 g, 67% | BrC=1C=C(C=C2C(C=C(OC12)N1C[C@H](OCC1)C)=O)C(=O)OC | C16H16BrNO5
